* Z:\mnt\design.r\spice\examples\3956.asc
C1 N003 0 4.7µ
L1 IN N001 22µ
R2 N002 N007 1Meg
R3 N007 0 16.2K
D1 N001 N002 MBRS360
R4 N002 N009 .68
C2 N002 0 10µ
V1 IN 0 10
R5 IN N004 332K
R6 N004 0 100K
C3 N012 0 4700p
M§Q2 N013 N015 0 0 Si7850DP
D2 N009 N013 LXK2-PW14
C4 N010 0 .001µ
R7 N011 0 28.7K
V2 N014 0 3.3
R8 N003 N005 100K
R9 IN N008 332K
R10 N008 0 40.2K
XU1 N006 N014 N005 N010 N011 N004 N003 IN MP_01 N001 N015 N007 N009 N002 N012 N008 0 LT3956
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m startup
.lib LT3956.sub
.backanno
.end
